US06747022B2
Preparation of (R)-1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
To a solution of 50 g of (R)-(−)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine in 200 ml of dimethylsulfoxide were added 28.1 g of 1-chloropinacolone, 28.8 g of potassium carbonate (powder), 1.15 g of potassium iodide and 1.35 g of tetrabutylammonium bromide. The mixture was stirred at room temperature for 4 hours. The reaction mixture was poured into ice water. The precipitate thus formed was collected by filtration with suction, washed with water and then dried, whereby 63.5 g of the title compound was obtained.

reactant | (R)-(−)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 50 g | O=C1[C@@H](CN(C2=C(N1)C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C | C20H29N3O3
reactant | 1-chloropinacolone | 28.1 g | ClCC(C(C)(C)C)=O | C6H11ClO
reactant | potassium carbonate | 28.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
catalyst | tetrabutylammonium bromide | 1.35 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | potassium iodide | 1.15 g | [I-].[K+]
product | (R)-1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 63.5 g | C(C)(C)(C)C(=O)CN1C([C@@H](CN(C2=C1C=CC=C2)C2CCCCC2)NC(=O)OC(C)(C)C)=O | C26H39N3O4
